* C:\Users\wmarkowski\dev-test\sources\various\sandbox\inverter-welder\elements\SG3525_basic_sim.asc
V1 OSC 0 PULSE(0.9 3.2 0 1.6e-5 0 0 0 10000)
V2 VCC 0 13
V3 9.COMPENSATION 0 5
XU2 OSC 9.COMPENSATION VREF 0 N003 LT1716
A7 OSC 0 0 0 0 OSC_OUT 0 0 BUF Vhigh=5 Vlow=0 Ref=2.05
A4 OSC_OUT 0 0 0 0 PHI2 PHI1 0 COUNTER cycles=2 Vhigh=5 Vlow=0
C1 8.SOFT-START 0 10n
XU1 OSC 8.SOFT-START VREF 0 N005 LT1716
A6 0 N003 0 N005 0 0 PWM_OUT 0 OR Vhigh=5 Vlow=0
I1 VREF 8.SOFT-START 50µ
A1 PHI2 0 0 0 PWM_OUT N007 N006 0 OR Vhigh=5 Vlow=0
Q1 VCC N007 N008 0 2N2222
Q2 N008 N006 0 0 2N2222
V4 VREF 0 5.1
A2 PHI1 0 0 0 PWM_OUT N002 N001 0 OR Vhigh=5 Vlow=0
Q3 VCC N002 N004 0 2N2222
Q4 N004 N001 0 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\wmarkowski\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1e-3 0 startup
.lib LTC1.lib
.backanno
.end
